US05610293
A. Synthesis of N,N'-Di(p-toluenesulfonyl)-1,2-diaminopropane
To a stirred solution of p-toluenesulfonyl chloride (270 g, 1.42 mole) and triethylamine (143 g, 1.42 mole) in CH2Cl2 (1.0 l) at 0° C. under a dry argon atmosphere was added a solution of 1,2-diaminopropane (50.0 g, 0.675 mole) in CH2Cl2 (250 ml) dropwise, maintaining the temperature <10° C. The addition required 1 h. The mixture was allowed to warm to room temperature and was stirred an additional 19 h. The mixture was poured onto ice (1000 g) and the CH2Cl2 layer was separated. The CH2Cl2 layer was washed with 1N HCl, H2O and saturated NaCl solution and was dried (MgSO4). The solvent was removed in vacuo and the resulting yellow oil was washed with hexane. The crude product was purified by recrystallization from CH2Cl2 -hexane to give 241 g (93% yield) of the product as colorless needles: mp 105°-7° C.; 1H NMR(CDCl3) δ0.97 (d, J=6.7 Hz, 3 H), 2.40 (s, 3 H), 2.41 (s, 3 H), 2.91 (m, 2 H), 3.32 (m, 1 H), 5.25 (d, J=7.6 Hz, 1 H), 5.38 (t, J=6.3 Hz, 1 H), 7.28 (m, 4 H) 7.73, (m, 4 H).

reactant | p-toluenesulfonyl chloride | 1.42 mole, 270 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 1.42 mole, 143 g | C(C)N(CC)CC | C6H15N
reactant | 1,2-diaminopropane | 0.675 mole, 50.0 g | NCC(C)N | C3H10N2
solvent | CH2Cl2 | 1.0 l | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | N,N'-Di(p-toluenesulfonyl)-1,2-diaminopropane | 241 g, 93% yield | C1(=CC=C(C=C1)S(=O)(=O)NCC(C)NS(=O)(=O)C1=CC=C(C=C1)C)C | C17H22N2O4S2
